US08530467B2
Part C. Preparation of (R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate
A solution of (R)-tert-butyl 2-((1,3-dioxoisoindolin-2-yl)methyl)morpholine-4-carboxylate (37.9 g, 0.11 mol) in ethanolamine (250 mL) was stirred at room temperature for 16 hr. Afterward, the mixture was poured into water (500 mL). The aqueous layer was extracted with EtOAc (3×250 mL), and then the combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (100% EtOAc then 0-10% MeOH in CH2Cl2 (with 1% NH4OH)) to provide the title compound (17.2 g, 73%) as an oil. HRMS (ESI) m/z calcd for C10H20N2O3 217.15 [M+H]+. found 217.28. 1H NMR (300 MHz, CDCl3) δ ppm 1.28 (s, 2H), 1.46 (s, 9H), 2.56-2.70 (m, 1H), 2.73-2.76 (m, 2H), 2.85-2.98 (m, 1 H), 3.30-3.39 (m, 1H), 3.52 (td, J=11.61, 2.82 Hz, 1H), 3.78-3.95 (m, 3H).

reactant | (R)-tert-butyl 2-((1,3-dioxoisoindolin-2-yl)methyl)morpholine-4-carboxylate | 0.11 mol, 37.9 g | O=C1N(C(C2=CC=CC=C12)=O)C[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C18H22N2O5
reactant | water | 500 mL | O | H2O
solvent | ethanolamine | 250 mL | C(O)CN | C2H7NO
product | (R)-tert-butyl 2-(aminomethyl)morpholine-4-carboxylate | 17.2 g, 73% | NC[C@@H]1CN(CCO1)C(=O)OC(C)(C)C | C10H20N2O3
